US04180504
To a mixture of 3-phenylpropionic acid (15.0 g) and 1-butanol (8.15 g) in pyridine (30 ml) pTSA (0.100 g) is added. When the solution is homogeneous, DCC (24.8 g) is added, and the solution is stirred at room temperature for 24 h. After addition of acetic acid (10 ml) the reaction mixture is worked up as in Example 1. A 96% yield of butyl 3-phenylpropionate is obtained, b. p. 112°-3° C. (1 mm Hg) [lit. (12), 91° C. (0.3 mm Hg)].

reactant | 3-phenylpropionic acid | 15.0 g | C1(=CC=CC=C1)CCC(=O)O | C9H10O2
reactant | 1-butanol | 8.15 g | C(CCC)O | C4H10O
reactant | DCC | 24.8 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | pyridine | 30 ml, 0.100 g | N1=CC=CC=C1 | C5H5N
product | butyl 3-phenylpropionate | 96% yield | C1(=CC=CC=C1)CCC(=O)OCCCC | C13H18O2
